US05242929
1-(1-azabicyclo[2.2.2]oct-3-yl)-3-(3-chlorophenyl)-imidazolidin-2-one hydrochloride.
To a stirred solution of N-(1-azabicyclo[2.2.2]oct-3 yl)-N'-(3-chlorphenyl)-1,2-diaminoethane (2.7 g; 0.0097 moles) in anhydrous tetrahydrofuran (10 ml), N,N-carbonyldiimidazole (2.04 g; 0.0125 moles) is added.

reactant | N-(1-azabicyclo[2.2.2]oct-3 yl)-N'-(3-chlorphenyl)-1,2-diaminoethane | 0.0097 moles, 2.7 g | N12CC(C(CC1)CC2)NCCNC2=CC(=CC=C2)Cl | C15H22ClN3
reactant | N,N-carbonyldiimidazole | 0.0125 moles, 2.04 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(1-azabicyclo[2.2.2]oct-3-yl)-3-(3-chlorophenyl)-imidazolidin-2-one hydrochloride | Cl.N12CC(C(CC1)CC2)N2C(N(CC2)C2=CC(=CC=C2)Cl)=O | InChI=1S/C16H20ClN3O.ClH/c17-13-2-1-3-14(10-13)19-8-9-20(16(19)21)15-11-18-6-4-12(15)5-7-18;/h1-3,10,12,15H,4-9,11H2;1H
